US06133266
(-)-(2R)-2-[4-Benzyloxy-3-(2-benzyloxyethyl)phenyl]-2-hydroxy-N-((2S)-7-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl)acetamide (low polarity isomer) (1.08 g) was dissolved in 20 ml of tetrahydrofuran, 438 μl of borane-dimethylsulfide complex was added to the solution, and the mixture was heated under reflux for 3 hours. Then, a solution of 1.14 g of triethanolamine in 1 ml of tetrahydrofuran was added and the mixture was again heated under reflux for 6 hours. After cooling, water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The extract was washed with water and then dried over anhydrous magnesium sulfate. Thereafter, the solvent was evaporated under reduced pressure and the resulting residue was recrystallized from ethyl acetate to give 687 mg of (-)-(1R)-1-[4-benzyloxy-3-(2-benzyloxyethyl)phenyl]-2-((2S)-7-hydroxy-1,2,3,4-tetrahydronaphthalen-2-ylamino)ethanol having a melting point of 147 to 150° C.

reactant | (-)-(2R)-2-[4-Benzyloxy-3-(2-benzyloxyethyl)phenyl]-2-hydroxy-N-((2S)-7-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl)acetamide | 1.08 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[C@H](C(=O)N[C@@H]1CC2=CC(=CC=C2CC1)O)O)CCOCC1=CC=CC=C1 | C34H35NO5
reactant | triethanolamine | 1.14 g | N(CCO)(CCO)CCO | C6H15NO3
reactant | water | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | (-)-(1R)-1-[4-benzyloxy-3-(2-benzyloxyethyl)phenyl]-2-((2S)-7-hydroxy-1,2,3,4-tetrahydronaphthalen-2-ylamino)ethanol | 687 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[C@H](CN[C@@H]1CC2=CC(=CC=C2CC1)O)O)CCOCC1=CC=CC=C1 | C34H37NO4
